US07423185B2
Methyl 3-isopropyl-3′5′-dimethyl-4′-(2-oxopropoxy)biphenyl-4-carboxylate
The title compound was prepared according to procedures analogous to those as described in Reference Example 31 by using 1-(4-bromo-2,6-dimethylphenoxy)propan-2-one and methyl 2-isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate.

reactant | 1-(4-bromo-2,6-dimethylphenoxy)propan-2-one | BrC1=CC(=C(OCC(C)=O)C(=C1)C)C | C11H13BrO2
reactant | methyl 2-isopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | C(C)(C)C1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H25BO4
product | Methyl 3-isopropyl-3′5′-dimethyl-4′-(2-oxopropoxy)biphenyl-4-carboxylate | C(C)(C)C=1C=C(C=CC1C(=O)OC)C1=CC(=C(C(=C1)C)OCC(C)=O)C | C22H26O4
